US07612075B2
A suspension of 2-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-piperazin-1-yl]-thioacetamide (200 mg, 0.5 mmol) and 5-benzyloxycarbonylamino-4-bromo-3-oxo-pentanoic acid ethyl ester (370 mg, 1.0 mmol) is heated at 90° C. in a mixture of toluene/t-butanol, 1:1 (5 mL) for 16 h. The reaction is concentrated and purified using column chromatography (silica, 2%MeOH/CH2Cl2) to provide {5-(benzyloxycarbonylamino-methyl)-2-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-thiazol-4-yl}-acetic acid ethyl ester. 1H NMR (300 MHz, CDCl3) δ 7.87-7.81 (m, 3H), 7.45 (dd, 1H), 7.32 (s, 5H), 7.45 (bt, 1H), 5.07 (s, 2H), 4.73 (s, 2H), 4.42 (d, 2H), 4.13 (q, 2H), 3.90 (s, 2H), 3.76 (s, 2H), 3.61-3.55 (m, 2H), 3.50-3.43 (m, 2H), 1.24 (t, 3H); MS (ion spray) 677 (M+H)+.

reactant | 2-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-piperazin-1-yl]-thioacetamide | 0.5 mmol, 200 mg | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CCN(CC2)CC(=S)N)C1 | C14H16ClN3O2S3
reactant | 5-benzyloxycarbonylamino-4-bromo-3-oxo-pentanoic acid ethyl ester | 1.0 mmol, 370 mg | C(C)OC(CC(C(CNC(=O)OCC1=CC=CC=C1)Br)=O)=O | C15H18BrNO5
reactant | toluene t-butanol | C1(=CC=CC=C1)C.C(C)(C)(C)O
product | {5-(benzyloxycarbonylamino-methyl)-2-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-thiazol-4-yl}-acetic acid ethyl ester | C(C)OC(CC=1N=C(SC1CNC(=O)OCC1=CC=CC=C1)CN1C(CN(CC1)S(=O)(=O)C1=CC2=C(S1)C=C(C=C2)Cl)=O)=O | C29H29ClN4O7S3
